US06087380
a) 1-Methyl-2-[N-(4-cyanophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide
Prepared analogously to Example 25c from N-(4-cyanophenyl)-N-methylglycine and 3-amino-4-methylamino-benzoic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide. Yield: 71% of theory, Rf value: 0.66 (silica gel; dichloromethane/methanol=19:1)

reactant | N-(4-cyanophenyl)-N-methylglycine | C(#N)C1=CC=C(C=C1)N(CC(=O)O)C | C10H10N2O2
reactant | 3-amino-4-methylamino-benzoic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | N1=C(C=CC=C1)N(C(C1=CC(=C(C=C1)NC)N)=O)CCC(=O)OCC | C18H22N4O3
reactant | dichloromethane methanol | ClCCl.CO
product | 1-Methyl-2-[N-(4-cyanophenyl)-N-methyl-aminomethyl]-benzimidazol-5-yl-carboxylic acid-N-(2-pyridyl)-N-(2-ethoxycarbonylethyl)-amide | Yield: 71% | N1=C(C=CC=C1)N(C(=O)C1=CC2=C(N(C(=N2)CN(C)C2=CC=C(C=C2)C#N)C)C=C1)CCC(=O)OCC | C28H28N6O3
